US04426524
A stirred solution of 8.7 g (0.034 mol) of 3-(3-bromomethylphenyl)thiophene and 5.1 g (0.051 mol) of potassium acetate in 65 mL of glacial acetic acid was heated under reflux for three hours. The reaction mixture was cooled and transferred to a separatory funnel, and 150 mL of water was added. The mixture was extracted with two portions of 120 mL each of methylene chloride. The combined extracts were washed with 150 mL of a saturated solution of sodium chloride, two portions of 150 mL each of a saturated aqueous solution of sodium bicarbonate, and finally 100 mL of a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give an oil residue. The residue was subjected to column chromatography on silica gel, eluting with hexane:methylene chloride (3:2). The appropriate fractions were combined to give 3.3 g of 3-(3-thienyl)phenylmethyl acetate.

reactant | 3-(3-bromomethylphenyl)thiophene | 0.034 mol, 8.7 g | BrCC=1C=C(C=CC1)C1=CSC=C1 | C11H9BrS
reactant | potassium acetate | 0.051 mol, 5.1 g | C(C)(=O)[O-].[K+]
reactant | water | 150 mL | O | H2O
solvent | acetic acid | 65 mL | C(C)(=O)O | C2H4O2
product | 3-(3-thienyl)phenylmethyl acetate | 3.3 g | C(C)(=O)OCC1=CC(=CC=C1)C1=CSC=C1 | C13H12O2S
